US08486940B2
3-(1H-benzo[d]imidazol-6-yl)-2-(naphthalen-1-yl)thiazolidin-4-one
The compound was synthesized starting from 5-aminobenzimidazole (0.133 g, 1.0 mmol), 4-naphthalen-1-yl carbaldehyde (0.157 mL, 1.0 mmol), mercapto acetic acid (0.157 g, 1.5 mmol), piperidine, according to method 9 step A yield: 54 mg (15.6%), MS m/z: 346.3 (M+H)+, HPLC [A]): rt 6.86 min (95%)

reactant | 5-aminobenzimidazole | 1.0 mmol, 0.133 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | mercapto acetic acid | 1.5 mmol, 0.157 g | SCC(=O)O | C2H4O2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-(1H-benzo[d]imidazol-6-yl)-2-(naphthalen-1-yl)thiazolidin-4-one | N1C=NC2=C1C=C(C=C2)N2C(SCC2=O)C2=CC=CC1=CC=CC=C21 | C20H15N3OS
